US04371536
1.02 g of 4-methyl-6-nitro-β-carbolin-3-carboxylic acid ethyl ester is dissolved or suspended in 30 ml of ethanol and 6 ml of tetrahydrofuran and, after the addition of 150 ml of palladium-carbon (10%), is hydrogenated at 24° C. and normal pressure. Within 3.5 hours, 210 ml of hydrogen is absorbed. The solution is filtered off and the catalyst and the solvent is distilled off in vacuo. The crude product is recrystallized from methanol-chloroform. 816 mg of 6-amino-4-methyl-β-carbolin-3-carboxylic acid ethyl ester of melting point 225°-238° C. (decomposition) is obtained.

reactant | 4-methyl-6-nitro-β-carbolin-3-carboxylic acid ethyl ester | 1.02 g | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)[N+](=O)[O-] | C15H13N3O4
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 150 ml | [C].[Pd]
product | 6-amino-4-methyl-β-carbolin-3-carboxylic acid ethyl ester | 816 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)N | C15H15N3O2
